US09062092B2
Compound 57c. 6-Nitromethyl-6-vinyl-[1,4]dioxepane
A mixture of toluene (13 mL) and water (3.25 mL) was deoxygenated by bubbling nitrogen through for 20 minutes. It was then added to 6-nitromethylene-[1,4]dioxepane (512 mg, 3.22 mmol). 2,2′-Bis(diphenylphosphino)-1,1′-binaphthalene (218 mg, 0.35 mmol) and potassium vinyltrifluoroborate (1.73 g, 12.9 mmol) were added and the mixture was deoxygenated by bubbling nitrogen through for 5 minutes. Bis(1,5-cyclooctadiene)rhodium(I) tetrafluoroborate (131 mg, 0.32 mmol) was added and the reaction mixture was stirred and heated at reflux under nitrogen for 4.5 h. The mixture was allowed to cool and was partitioned between diethyl ether and water. The aqueous layer was separated and extracted with diethyl ether and the combined organics extracts were dried over anhydrous sodium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanes/diethyl ether 3:1 to 13:7 to give the title compound (155 mg, 26%) as a pale brown oil. 1H NMR (300 MHz, CDCl3) δ 3.77-3.93 (m, 8H), 4.64 (s, 2H), 5.22 (d, J=17.9 Hz, 1H), 5.30 (d, J=11.2 Hz, 1H), 5.79 (dd, J=17.8, 11.2 Hz, 1H). LCMS (m/z) 210.1 [M+Na], Tr=1.51 min.

reactant | toluene | 13 mL | C1(=CC=CC=C1)C | C7H8
reactant | 6-nitromethylene-[1,4]dioxepane | 3.22 mmol, 512 mg | [N+](=O)([O-])C=C1COCCOC1 | C6H9NO4
reactant | 2,2′-Bis(diphenylphosphino)-1,1′-binaphthalene | 0.35 mmol, 218 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | potassium vinyltrifluoroborate | 12.9 mmol, 1.73 g | C(=C)[B-](F)(F)F.[K+]
catalyst | Bis(1,5-cyclooctadiene)rhodium(I) tetrafluoroborate | 0.32 mmol, 131 mg | [B-](F)(F)(F)F.C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Rh]
solvent | water | 3.25 mL | O | H2O
product | 6-Nitromethyl-6-vinyl-[1,4]dioxepane | 155 mg, 26% | [N+](=O)([O-])CC1(COCCOC1)C=C | C8H13NO4
